### PR TITLE
[Merged by Bors] - feat(Order/CompactlyGenerated/Basic): the supremum of compact elements is compact and other basics

### PR DESCRIPTION
**Pull request by SnirBroshi**
- `⊥` is compact
- `⊔` of compacts is compact
- `WellFoundedGT` implies that every element is compact
- Generalize `IsCompactlyGenerated` to use `IsLUB`, like `IsCompactElement` & `IsAtomistic`

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Order/CompactlyGenerated/Basic.lean [hunk 1]
```diff
@@ -55,18 +55,46 @@ complete lattice, well-founded, compact
...
     DirectedOn (· ≤ ·) s →
     IsLUB s u →
     k ≤ u →
     ∃ x ∈ s, k ≤ x
 
+section Preorder
+
+variable [Preorder α] (a : α)
+
+theorem IsBot.IsCompactElement (h : IsBot a) : IsCompactElement a :=
```
Comment (YaelDillies) [inline Mathlib/Order/CompactlyGenerated/Basic.lean:76]:
```suggestion
theorem IsBot.isCompactElement (h : IsBot a) : IsCompactElement a :=
```

Comment (YaelDillies) [inline Mathlib/Order/CompactlyGenerated/Basic.lean:76]: simp?

File: Mathlib/Order/CompactlyGenerated/Basic.lean [hunk 2]
```diff
@@ -55,18 +55,46 @@ complete lattice, well-founded, compact
...
+  fun _ _ ⟨x, hx⟩ _ _ _ ↦ ⟨x, hx, h x⟩
+
+protected theorem IsCompactElement.bot [OrderBot α] : IsCompactElement (⊥ : α) :=
```
Comment (YaelDillies) [inline Mathlib/Order/CompactlyGenerated/Basic.lean:79]: simp?

File: Mathlib/Order/CompactlyGenerated/Basic.lean [hunk 3]
```diff
@@ -55,18 +55,46 @@ complete lattice, well-founded, compact
...
+  isBot_bot.IsCompactElement
+
+theorem IsCompactElement.of_wellFoundedGT [WellFoundedGT α] : IsCompactElement a := by
```
Comment (YaelDillies) [inline Mathlib/Order/CompactlyGenerated/Basic.lean:82]: simp?

File: Mathlib/Order/CompactlyGenerated/Basic.lean [hunk 4]
```diff
@@ -55,18 +55,46 @@ complete lattice, well-founded, compact
...
+  intro s u hne hdir hsu hau
+  grw [hau]
+  have ⟨m, hm⟩ := ‹WellFoundedGT α›.exists_maximal s hne
+  exact ⟨m, hm.prop, hsu.right <| hdir.maximal_iff_isGreatest.mp hm |>.right⟩
+
+end Preorder
+
+protected theorem IsCompactElement.sup [SemilatticeSup α] {a b : α} (ha : IsCompactElement a)
+    (hb : IsCompactElement b) : IsCompactElement (a ⊔ b) := by
```
Comment (YaelDillies) [inline Mathlib/Order/CompactlyGenerated/Basic.lean:91]: simp? grind?

File: Mathlib/Order/CompactlyGenerated/Basic.lean [hunk 5]
```diff
@@ -336,38 +370,64 @@ theorem WellFoundedLT.finite_of_iSupIndep [WellFoundedLT α] {ι : Type*}
...
 /-- A complete lattice is said to be compactly generated if any
-element is the `sSup` of compact elements. -/
-class IsCompactlyGenerated (α : Type*) [CompleteLattice α] : Prop where
+element is the least upper bound of compact elements. -/
+class IsCompactlyGenerated (α : Type*) [Preorder α] : Prop where
   /-- In a compactly generated complete lattice,
-  every element is the `sSup` of some set of compact elements. -/
-  exists_sSup_eq : ∀ x : α, ∃ s : Set α, (∀ x ∈ s, IsCompactElement x) ∧ sSup s = x
+  every element is the least upper bound of some set of compact elements. -/
+  exists_isLUB : ∀ a : α, ∃ s : Set α, (∀ x ∈ s, IsCompactElement x) ∧ IsLUB s a
```
Comment (YaelDillies) [inline Mathlib/Order/CompactlyGenerated/Basic.lean:380]: nit:
```suggestion
  exists_isLUB (a : α) : ∃ s : Set α, (∀ x ∈ s, IsCompactElement x) ∧ IsLUB s a
```

File: Mathlib/Order/CompactlyGenerated/Basic.lean [hunk 6]
```diff
@@ -336,38 +370,64 @@ theorem WellFoundedLT.finite_of_iSupIndep [WellFoundedLT α] {ι : Type*}
...
+variable {a b} in
+theorem le_iff_forall_isCompactElement [IsCompactlyGenerated α] :
+    a ≤ b ↔ ∀ x : α, IsCompactElement x → x ≤ a → x ≤ b :=
+  have := isLUB_le_iff <| isLUB_setOfPred_le_and_isCompactElement a
+  this.trans ⟨fun h _ hx hxa ↦ h ⟨hxa, hx⟩, fun h x ⟨hxa, hx⟩ ↦ h x hx hxa⟩
+
+@[deprecated (since := "2026-08-03")]
+alias le_iff_compact_le_imp := le_iff_forall_isCompactElement
+
+theorem isCompactlyGenerated_of_wellFoundedGT [WellFoundedGT α] : IsCompactlyGenerated α :=
```
Comment (YaelDillies) [inline Mathlib/Order/CompactlyGenerated/Basic.lean:400]:
```suggestion
theorem IsCompactlyGenerated.of_wellFoundedGT [WellFoundedGT α] : IsCompactlyGenerated α :=
```

File: Mathlib/Order/CompactlyGenerated/Basic.lean [hunk 7]
```diff
@@ -336,38 +370,64 @@ theorem WellFoundedLT.finite_of_iSupIndep [WellFoundedLT α] {ι : Type*}
...
-  exists_sSup_eq : ∀ x : α, ∃ s : Set α, (∀ x ∈ s, IsCompactElement x) ∧ sSup s = x
+  every element is the least upper bound of some set of compact elements. -/
+  exists_isLUB : ∀ a : α, ∃ s : Set α, (∀ x ∈ s, IsCompactElement x) ∧ IsLUB s a
+
+section Preorder
+
+variable [Preorder α] (a b : α)
+
+theorem isLUB_setOfPred_le_and_isCompactElement [IsCompactlyGenerated α] :
+    IsLUB { x ≤ a | IsCompactElement x } a :=
```
Comment (YaelDillies) [inline Mathlib/Order/CompactlyGenerated/Basic.lean:387]:
```suggestion
    IsLUB {x ≤ a | IsCompactElement x} a :=
```

File: Mathlib/Order/CompactlyGenerated/Basic.lean (hunk 1 above)
Comment (SnirBroshi) [reply Mathlib/Order/CompactlyGenerated/Basic.lean]: Only one of `IsBot.isCompactElement` and `IsCompactElement.bot` can be `@[simp]`, so I went with the `OrderBot` version. This one will make `simp` try to prove `IsBot` every time, and I think synthesizing `OrderBot` is easier and the more common case. Not sure.

File: Mathlib/Order/CompactlyGenerated/Basic.lean [hunk 8]
```diff
@@ -55,18 +55,48 @@ complete lattice, well-founded, compact
...
 @[expose] public section
 
+variable {ι : Sort*} {α : Type*} {f : ι → α}
+
 open Set
 /-- An element `k` is compact if any directed set with `LUB` (least upper bound) above
 `k` has already got above `k` at some point in the set.
 Such an element is also called "finite" or "S-compact". -/
-def IsCompactElement {α : Type*} [PartialOrder α] (k : α) :=
+def IsCompactElement [Preorder α] (k : α) :=
```
Comment (YaelDillies) [inline Mathlib/Order/CompactlyGenerated/Basic.lean:64]: If you are going to do this generalisation, can you prove the lemma that indistinguishable elements are both compact or both non-compact? This is to ensure that your definition is non-silly

Comment (SnirBroshi) [reply Mathlib/Order/CompactlyGenerated/Basic.lean:64]: Added `isCompactElement_iff_of_le_of_ge`

File: Mathlib/Order/CompactlyGenerated/Basic.lean [hunk 9]
```diff
@@ -71,7 +71,11 @@ def IsCompactElement [Preorder α] (k : α) :=
 
 section Preorder
 
-variable [Preorder α] (a : α)
+variable [Preorder α] (a b : α)
+
+theorem isCompactElement_iff_of_le_of_ge (hab : a ≤ b) (hba : b ≤ a) :
```
Comment (YaelDillies) [inline Mathlib/Order/CompactlyGenerated/Basic.lean]:
```suggestion
theorem isCompactElement_congr (hab : a ≤ b) (hba : b ≤ a) :
```
is better IMO

File: Mathlib/Order/CompactlyGenerated/Basic.lean [hunk 10]
```diff
@@ -55,18 +55,52 @@ complete lattice, well-founded, compact
...
     DirectedOn (· ≤ ·) s →
     IsLUB s u →
     k ≤ u →
     ∃ x ∈ s, k ≤ x
 
+section Preorder
+
+variable [Preorder α] (a b : α)
+
+theorem isCompactElement_iff_of_le_of_ge (hab : a ≤ b) (hba : b ≤ a) :
```
Comment (YaelDillies) [inline Mathlib/Order/CompactlyGenerated/Basic.lean]:
```suggestion
variable [Preorder α] {a b : α}

theorem isCompactElement_iff_of_le_of_ge (hab : a ≤ b) (hba : b ≤ a) :
```
surely?

Comment (SnirBroshi) [reply Mathlib/Order/CompactlyGenerated/Basic.lean]: Whoops

File: Mathlib/Order/CompactlyGenerated/Basic.lean [hunk 11]
```diff
@@ -55,18 +55,54 @@ complete lattice, well-founded, compact
...
   ∀ (s : Set α) (u : α),
     s.Nonempty →
     DirectedOn (· ≤ ·) s →
     IsLUB s u →
     k ≤ u →
     ∃ x ∈ s, k ≤ x
 
+section Preorder
+
+variable [Preorder α] (a b : α)
```
Comment (YaelDillies) [inline Mathlib/Order/CompactlyGenerated/Basic.lean]: `a` is used implicitly by two lemmas and implicitly by one lemma, `b` is only used implicitly. Furthermore, I am allergic to explicit `variable` declarations (intuitively one doesn't expect explicit arguments to come from `variable`, empirically beginners find this very confusing), so I would suggest
```suggestion
variable [Preorder α] {a b : α}
```

**Review by YaelDillies — APPROVED** [review]
Thanks!

maintainer delegate

**Review by jcommelin — COMMENTED** [review]
Thanks :tada:

bors merge
